US05663053
A mixture of 1-(7-ethoxycarbonylheptyl)-2,4,5-triphenyl-imidazole (13.6 g), 2N aqueous sodium hydroxide (300 ml) and ethanol (200 ml ) was heated at reflux for 2.5 h. The ethanol was removed in vacuo and the reaction mixture was acidified with 2N aqueous hydrochloric acid. The aqueous solution was extracted with ethyl acetate (4×200 ml ) and the organic extracts were combined, dried over anhydrous magnesinm sulphate and evaporated to dryness in vacuo. Recrystallisation from ethanol gave 1-(7-carboxyheptyl)-2,4,5-triphenylimidazole (9.77 g, 76.4%) as a white solid, m.p. 162°; Found C, 79.43; H, 6.93; N, 6.36%; C29H30N2O2 requires: C, 79.42; H, 6.90; N, 6.39%.

reactant | 1-(7-ethoxycarbonylheptyl)-2,4,5-triphenyl-imidazole | 13.6 g | C(C)OC(=O)CCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C31H34N2O2
reactant | sodium hydroxide | 2N, 300 ml | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 1-(7-carboxyheptyl)-2,4,5-triphenylimidazole | 9.77 g, 76.4% | C(=O)(O)CCCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H30N2O2
